US04330550
(a) Preparation of N-(ethoxycarbonylheptyl)-2-oxo-5-phenyl-4-oxazolin-3-ylcarboxamide.
16.1 g (0.1 mol) of 5-phenyl-4-oxazolin-2-one are dissolved in 100 ml of absolute DMF and 25.6 g (0.12 mol) of ethoxycarbonylheptyl isocyanate are added. The mixture is stirred for 24 hours at 50°-60° C., water is added and the oily/crystalline precipitate which is formed is separated, washed with water and dried in vacuo at room temperature. The crude product is recrystallised from ethanol.

reactant | 5-phenyl-4-oxazolin-2-one | 0.1 mol, 16.1 g | C1(=CC=CC=C1)C1=CNC(O1)=O | C9H7NO2
reactant | ethoxycarbonylheptyl isocyanate | 0.12 mol, 25.6 g | C(C)OC(=O)CCCCCCCN=C=O | C11H19NO3
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | N-(ethoxycarbonylheptyl)-2-oxo-5-phenyl-4-oxazolin-3-ylcarboxamide | C(C)OC(=O)CCCCCCCNC(=O)N1C(OC(=C1)C1=CC=CC=C1)=O | C20H26N2O5
